US07569578B2
(±)-2-(2-(7-Methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carbonyloxy)ethyl)isonicotinic acid
To a suspension of (±)-methyl 2-(1-hydroxy-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethyl)isonicotinate (233 mg, 0.527 mmol 1.0 equiv) and 4-nitrophenyl 4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate (251 mg, 0.632 mmol, 1.2 equiv) in tetrahydrofuran (6 mL) was added sodium hydride (91 mg, 7 equiv) in one portion. The resulting mixture was stirred at room temperature under nitrogen overnight. The mixture was partitioned between water and ethyl acetate. The layers were separated and the aqueous layer was acidified to pH 5 with acetic acid. The aqueous portion was extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried and concentrated. The residue was purified by flash column chromatography (20% methanol in methylene chloride) to afford the desired acid (227 mg, 62.8%) as a tan solid. (ESI) 685 (MH)+. HPLC tR=2.19 min.

reactant | (±)-methyl 2-(1-hydroxy-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethyl)isonicotinate | 0.527 mmol, 233 mg, 1.0 equiv | OC(CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)C=1C=C(C(=O)OC)C=CN1 | C23H31N3O4Si
reactant | 4-nitrophenyl 4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxylate | 0.632 mmol, 251 mg, 1.2 equiv | O=C1NC2=CC=CC=C2CN1C1CCN(CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C20H20N4O5
reactant | sodium hydride | 91 mg, 7 equiv | [H-].[Na+]
reactant | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | (±)-2-(2-(7-Methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carbonyloxy)ethyl)isonicotinic acid | 227 mg, 62.8% | CC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)CC(OC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)C=1C=C(C(=O)O)C=CN1 | C36H44N6O6Si
